US06703392B2
2-{1-[3-(3-fluoro-propoxy)-4-methoxy-benzyl]-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl}-N-benzyl-acetamide:
prepared by reaction of 2-[1-(3-hydroxy-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide with 1-bromo-3-fluoro-propane

reactant | 2-[1-(3-hydroxy-4-methoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-benzyl-acetamide | OC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C28H32N2O5
reactant | 1-bromo-3-fluoro-propane | BrCCCF | C3H6BrF
product | 2-{1-[3-(3-fluoro-propoxy)-4-methoxy-benzyl]-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl}-N-benzyl-acetamide | FCCCOC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=CC=CC=C2)C=CC1OC | C31H37FN2O5
